US07585885B2
(R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-hexyl-pyrrolidine-1-carboxylic acid tert-butyl ester
Combine (R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-hex-(Z)-ylidene-pyrrolidine-1-carboxylic acid tert-butyl ester (0.04 g, 0.076 mmol), 10% palladium on carbon (4 mg) and methanol (2 mL) and stir for 2 days under 1 atmosphere of hydrogen. Add filter agent, filter and concentrate under reduced pressure to provide the desired compound as a mixture of isomers (2:1 4(S):4(R); 0.036 g, 90%). Subject isomer mixture to HPLC chromatography under acidic conditions: TFA 0.05% at pH 2.5; Organic solvent: acetonitrile; Gradient from 90 to 95% acetonitrile.

reactant | (R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-hex-(Z)-ylidene-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.076 mmol, 0.04 g | C(C)(C)(C)OC(=O)N1[C@H](C/C(/C1)=C/CCCCC)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C29H42F2N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 4 mg | [Pd] | Pd
solvent | methanol | 2 mL | CO | CH4O
product | (R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-hexyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CC(C1)CCCCCC)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C29H44F2N2O4
